US08048909B2
Methyl 5-bromo-4-isopropyl-1H-pyrrole-3-carboxylate
Using methyl 4-isopropyl-1H-pyrrole-3-carboxylate (3.5 g), N-bromosuccinimide (3.74 g) and pyridine (0.5 mL), a procedure as in Reference Example 40 was performed to give the title compound as colorless crystals (yield 3.29 g, 64%).

reactant | methyl 4-isopropyl-1H-pyrrole-3-carboxylate | 3.5 g | C(C)(C)C=1C(=CNC1)C(=O)OC | C9H13NO2
reactant | N-bromosuccinimide | 3.74 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | Methyl 5-bromo-4-isopropyl-1H-pyrrole-3-carboxylate | yield 3.29 g, 64% | BrC1=C(C(=CN1)C(=O)OC)C(C)C | C9H12BrNO2
